US05807859
A mixture of 0.1 g of 10-(4-acetylamino-benzyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 5 ml of 1N sodium hydroxide and 5 ml of water is heated at 98° C. for 16 hours. After cooling to a temperature in the region of 20° C., the reaction mixture is acidified with 1 ml of acetic acid, filtered and the precipitate formed is washed with 1 ml of methanol and air-dried. 90 mg of 10-(4-aminobenzyl)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one are obtained in the form of a yellow solid melting above 260° C. (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 3.19 and 3.42 (2dd, J=15 and 7 Hz and J=15 and 5 Hz respectively, 1H each: Ar--CH2); 4.41 (dd, J=7 and 5 Hz, 1H: --H10); 4.80 (broad mult., 1H: --NH2); 6.22 and 6.40 (2d, J=7.5 Hz, 2H each: aromatic --H); 7.32 (m, 2H: --H7 and --H8); 7.45 and 7.75 (2 broad d, J=7.5 Hz, 1H each: --H6 and --H9); 7.64 and 8.13 (2 broad s, 1H each: --H of the imidazole); 12.23 (broad s, 1H: --CO--NH--)).

reactant | 10-(4-acetylamino-benzyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.1 g | C(C)(=O)NC1=CC=C(CC2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=C1 | C22H18N4O2
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 10-(4-aminobenzyl)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 90 mg | NC1=CC=C(CC2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=C1 | C20H16N4O
